US07964592B2
At 0° C., a solution of 7-Amino-N-methyl-2,3-dihydroisoindole-1-one (232.6 mg, 1.43 mmol) in DMF (2.0 mL) is treated with 60% NaH (89.8 mg), stirred at the same temperature for 1.5 h, treated with a solution of 2,4,5-trichloropyrimidine (0.557 g) in DMF (3.5 mL), stirred for 1 h, and warmed to room temperature. After furthermore stirring for 13 h, the mixture is treated with sat. aqueous NH4Cl (6 mL), and the resulting brown precipitates are collected by a filtration, followed by washing with H2O, hexane, and CH3CN to give 7-(4-Amino-2,5-dichloropyrimidin-4-yl)amino-N-methyl-2,3-dihydroisoindole-1-one (130.2 g, 0.416 mmol) in 26%. Brown solid. Rf (CH2Cl2/EtOAc 1:1) 0.50. 1H-NMR (400 MHz, CDCl3): 3.22 (s), 4.43 (s), 7.15 (d, J=8.0), 7.59 (dd, J=8.0, 8.0), 8.24 (s), 8.71 (d, J=8.0), 11.05 (br. s).

reactant | 7-Amino-N-methyl-2,3-dihydroisoindole-1-one | 1.43 mmol, 232.6 mg | NC=1C=CC=C2CN(C(C12)=O)C | C9H10N2O
reactant | NaH | 89.8 mg | [H-].[Na+]
reactant | 2,4,5-trichloropyrimidine | 0.557 g | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | NH4Cl | 6 mL | [NH4+].[Cl-]
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3.5 mL | CN(C)C=O | C3H7NO
product | 7-(4-Amino-2,5-dichloropyrimidin-4-yl)amino-N-methyl-2,3-dihydroisoindole-1-one | 0.416 mmol, 130.2 g | NC1(NC(=NC=C1Cl)Cl)NC=1C=CC=C2CN(C(C12)=O)C | C13H13Cl2N5O
